US03946004
Reaction of 5-methyl-2-pyrrolidinone, 2-methoxyphenothiazine and phosphorus oxychloride in 1,2-dichloroethane according to the procedure of Example 4 affords 2-METHOXY-10-[5-METHYL-1-(5-METHYL-1-PYRROLIN-2-YL)-2-PYRROLIN-2-YL]PHENOTHIAZINE HYDROCHLORIDE (8.6% yield), m.p. 236.5°-238.5° C. (corr.), from ethanol-ether.

reactant | 5-methyl-2-pyrrolidinone | CC1CCC(N1)=O | C5H9NO
reactant | 2-methoxyphenothiazine | COC1=CC=2NC3=CC=CC=C3SC2C=C1 | C13H11NOS
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 2-METHOXY-10-[5-METHYL-1-(5-METHYL-1-PYRROLIN-2-YL)-2-PYRROLIN-2-YL]PHENOTHIAZINE HYDROCHLORIDE | 8.6% yield | Cl.COC1=CC=2N(C3=CC=CC=C3SC2C=C1)C=1N(C(CC1)C)C1=NC(CC1)C | InChI=1S/C23H25N3OS.ClH/c1-15-8-12-22(24-15)25-16(2)9-13-23(25)26-18-6-4-5-7-20(18)28-21-11-10-17(27-3)14-19(21)26;/h4-7,10-11,13-16H,8-9,12H2,1-3H3;1H
